US03931195
A solution of 4-methoxy-2'-[3-(1-methyl-2-piperidyl)propyl]benzanilide (3.5 g., 0.0095 mole) and concentrated HCl (50 ml.) is heated at reflux for 16 hr., diluted with H2O (100 ml.), basified with 50% NaOH, and extracted with Et2O. The Et2O extracts are combined, washed (H2O and saturated NaCl), dried over MgSO4, and concentrated to give 2.2 g. of 2-(o-aminophenylpropyl)-1-methylpiperidine. The amine is dissolved in pyridine (50 ml.) and a solution of cinnamoyl chloride (1.8 g., 0.011 mole) in THF (10 ml.) added. The reaction mixture is stirred for 3 hr., then concentrated to dryness. The residue is dissolved in water, basified with 50% NaOH, and extracted with EtOAc. The EtOAc extracts are washed (H2O + saturated NaCl), dried over magnesium sulfate, and concentrated to give 3.4 g. of oil which is chromatographed on silica AR CC-7 (Mallinckrodt). Elution first with CHCl3 to remove impurities, then with EtOAc to remove the product and concentration of the EtOAc eluate gave 2.3 g. of solid which crystallized from EtOAc yields 1.6 g (46%) of 2'-[3-(1-methyl-2-piperidyl)propyl]cinnamanilide, m.p. 130-132°C. Further crystallization from ethyl acetate-isopropyl ether provides analytically pure product, m.p. 133.5°-134.5°C.

reactant | 4-methoxy-2'-[3-(1-methyl-2-piperidyl)propyl]benzanilide | 0.0095 mole, 3.5 g | COC1=CC=C(C(=O)NC2=C(C=CC=C2)CCCC2N(CCCC2)C)C=C1 | C23H30N2O2
reactant | HCl | 50 ml | Cl | ClH
reactant | NaOH | [OH-].[Na+]
reactant | 2-(o-aminophenylpropyl)-1-methylpiperidine | NC1=C(C=CC=C1)CCCC1N(CCCC1)C | C15H24N2
reactant | cinnamoyl chloride | 0.011 mole, 1.8 g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
solvent | H2O | 100 ml | O | H2O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2'-[3-(1-methyl-2-piperidyl)propyl]cinnamanilide | 1.6 g, 46% | CN1C(CCCC1)CCCC1=C(NC(C=CC2=CC=CC=C2)=O)C=CC=C1 | C24H30N2O
